US04210749
4-Methoxy-o-phenylenediacetonitrile
Finely ground sodium cyanide (73 gm., 1.48 m) was suspended in dimethylsulfoxide (500 ml.) by means of a "Vibro-Mixer". A solution of 4-Methoxy-α,α'-dibromo-o-xylene (113 gm., 0.384 m) in dimethylsulfoxide (200 ml.) was added dropwise to the cyanide suspension. The internal temperature was kept at 35°-38° C. by means of an ice bath. The addition took 15 minutes. Agitation of the reaction was continued for a further 11/2 hours. The reaction mixture was poured into water (4 l.). The aqueous mixture was extracted with ether (2×1 l., 3×500 ml.) and the combined ether extracts were washed with dilute hydrochloric acid (6 N) (2×500 ml.), saturated sodium carbonate solution (1×500 ml.), water (3×500 ml.) and saturated sodium chloride solution (2×500 ml.). The ether layer was dried over magnesium sulfate. The dried ethereal solution was evaporated to an oil which was distilled and the fraction with boiling range 160°- 165° (0.1 mm) was collected. wt.=53 gm. The oil obtained was crystallized from ether (650 ml.) to give 45 gm. (m.p. 51°-53°). A second crop of 5.8 gm.(m.p. 49°-51°) was obtained.

reactant | sodium cyanide | 73 gm | [C-]#N.[Na+]
reactant | 4-Methoxy-α,α'-dibromo-o-xylene | 113 gm | COC=1C=C(C(=CC1)CBr)CBr | C9H10Br2O
reactant | cyanide | [C-]#N
reactant | water | 4 l | O | H2O
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 4-Methoxy-o-phenylenediacetonitrile | COC1=CC(=C(C=C1)CC#N)CC#N | C11H10N2O
